US05235068
In 50 ml of dichloroethane were dissolved 6.31 g (0.05 mole) of 1-cyclohexene-1-carboxylic acid and 10.26 g (0.06 mole) of monochloroacetic anhydride. To the resulting solution were added 8.98 g (0.065 mole) of 1,2-dimethoxybenzene and 0.71 g of boron trifluoridediethyl ether complex and the resulting mixture was then stirred at 75° C. for 6 hours. After completion of the reaction, the reaction solution was cooled and washed successively with water, 5% aqueous sodium carbonate solution and water. The organic layer was dried over, anhydrous magnesium sulfate and then concentrated under reduced pressure to obtain 7.27 g of 4-(1-cyclohexenoyl)-1,2-dimethoxybenzene.

reactant | 1-cyclohexene-1-carboxylic acid | 0.05 mole, 6.31 g | C1(=CCCCC1)C(=O)O | C7H10O2
reactant | monochloroacetic anhydride | 0.06 mole, 10.26 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
reactant | 1,2-dimethoxybenzene | 0.065 mole, 8.98 g | COC1=C(C=CC=C1)OC | C8H10O2
solvent | dichloroethane | 50 ml | ClC(C)Cl | C2H4Cl2
product | 4-(1-cyclohexenoyl)-1,2-dimethoxybenzene | 7.27 g, Yield: 59% | C1(=CCCCC1)C(=O)C1=CC(=C(C=C1)OC)OC | C15H18O3
